US09403839B2
4-Bromo-3-methyl-benzoic acid (3.96 g, 18.4 mmol) was dissolved in tetrahydrofuran (100 mL) and the solution was cooled to −78° C. n-Butyllithium in hexanes (16.2 mL of 2.5 M, 41 mmol) was added dropwise over 20 minutes. The reaction mixture was allowed to stir for 30 minutes at −78° C. and then acetone (1.35 mL, 18.4 mmol) was added in a drop-wise manner. The reaction mixture was allowed to stir for 30 minutes at −78° C., and then it was allowed to warm to room temperature. The reaction mixture was then diluted with 100 mL of 1M aqueous sodium hydroxide. The organic layer was discarded and then the aqueous layer was made acidic with 4M aqueous hydrochloric acid. The aqueous layer was then extracted 3 times with ethyl acetate. The combined extracts were dried over sodium sulfate and then evaporated to dryness. The crude material was further purified on silica gel utilizing a gradient of 0-10% methanol in dichloromethane to give 4-(1-hydroxy-1-methyl-ethyl)-3-methyl-benzoic acid (1.51 g, 42%). 1H NMR (400 MHz, DMSO) δ 12.74 (s, 1H), 7.68 (dd, J=3.9, 2.5 Hz, 2H), 7.55 (d, J=8.7 Hz, 1H), 5.06 (s, 1H), 2.56 (s, 3H), 1.51 (s, 6H).

reactant | 4-Bromo-3-methyl-benzoic acid | 18.4 mmol, 3.96 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | n-Butyllithium | C(CCC)[Li]
reactant | acetone | 18.4 mmol, 1.35 mL | CC(=O)C | C3H6O
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1M, 100 mL | [OH-].[Na+]
product | 4-(1-hydroxy-1-methyl-ethyl)-3-methyl-benzoic acid | 1.51 g, 42% | OC(C)(C)C1=C(C=C(C(=O)O)C=C1)C | C11H14O3
